2147-02-10 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension
   24 Hour Events:
   - admitted for hypotension, ARF
   - paracentesis with 56 WBCs
   - albumin and IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 69 (58 - 69) bpm
   BP: 101/46(60) {74/38(47) - 101/79(84)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,535 mL
                                                                  1,272 mL
   PO:
           420 mL
   TF:
   IVF:
                                                                  1,335 mL
                                                                    793 mL
   Blood products:
                                                                    200 mL
                                                                     58 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,535 mL
                                                                  1,272 mL
   Respiratory support
   SpO2: 93%
   ABG: ////
   Physical Examination
   GENERAL - Middle-aged male sitting in bed in NAD
   HEENT -  sclerae anicteric, MMD
   NECK - supple, no thyromegaly, no JVD
   LUNGS - breathing comfortably. decreased BS on left.  rhonchi on
   right.
   HEART - RRR, no MRG
   ABDOMEN - normoactive BS, grossly distended, not tense. mild TTP RUQ,
   no TTP elsewhere.  RUQ healed surgical scar present, umbilical hernia
   present
   EXTREMITIES - 1+ LE edema present b/l with venous stasis
   changes in his lower legs.  Skin break in RLE, covered with clear
   dressing, mild purulent drainage from wound.
   NEUO/PSYCH - alert and oriented x 3
   Labs / Radiology
   19 K/uL
   8.3 g/dL
   3.0
   19
   100
   104
   25.7 %
   1.6 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
   WBC
   1.6
   Hct
   25.7
   Plt
   19
   Other labs: Lactic Acid:1.1 mmol/L
   Assessment and Plan
   A/P: 55 yo with EtOH cirrhosis with hypotension, decreased UOP,
   dehydration, and ARF.
   .
   # hypotension: Most likely explaination is still that he is
   intravascularly dry since last hospitalization, lasix restarted, and
   decreased liquid PO coupled with fluid shift from large volume
   paracentesis.  Other concern is infection.  Paracentesis showed only 56
   WBCs, though he is leukopenic so ? validity of conventional analysis of
   ascetic fluid.  However, GS is bland and cultures pending.  Has
   worsening cough and sputum production, URI sick contact, and also
   purulent drainage from RLE.
   - f/u cultures
   - levoflox for CAP (can d/c cipro)
   - cover possible cellulitis with vanc
   - monitor UOP
   .
   # elevated creatinine: worsening creatinine despite IVF and albumin.
   Concern remains for hepatorenal syndrome though other etiologies of
   renal failure should be evaluated.
   - urine lytes
   - discuss continued albumin with liver
   - renal u/s
   - may need foley
   .
   # Pleural effusion: chronic but larger, no previous thoracentesis in
   our system.  Could be source of infection or worsening his respiratory
   status.
   - u/s effusion
   - will need at least diagnostic tap, possibly therapeutic
 will need
   platelets and possibly FFP before procedure.
   - pleural effusion may limit fluid resuscitation
   .
   # pancytopenia: chronic, thought [**1-16**] hepatic dysfunction, though
   unclear workup in past.  Anemia and thrombocytopenia often seen in
   liver disease, leucopenia occurs but less frequent.  Roughly at
   baseline
   - trend
   - examine chart for previous workup.  If none, will need workup at some
   point.
   - tx for plt < 10, bleeding
   - tx for HCT < 21
   .
   # DM2:
   - cont home NPH
   - ISS
   .
   # liver: LFTs at recent baseline as are bili and coags. subjective mild
   hepatic encephalopathy.  On transplant list.
   - cont lactulose goal [**4-19**] stools per day
   - liver recs
   - hepatorenal and hypotension workup as above
   .
   # hyponatremia: at baseline. likely from underlying liver disease
   - follow
   .
   # FEN: reg diet, low sodium.  replete lytes prn.
   .
   # PPx: pneumoboots given low plt, PPI
   .
   # Code: full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-2-9**] 04:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2147-02-10 11:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o m with Cirrhosis, s/p therapeutic paracentesis, found to
   hypotensive w SBP 60s in clinic, some lightheadedness, sent to ED, no
   evidence of infection, reported poor po intake, reports some cough,
   responded to IVF. CXR showed slight increase in L pleural eff which is
   old. Got vanco/ceftaz in ED.
   24 Hour Events:
   Diagnostic para was negative (50 WBC) for SBP. Continued on o/p
   ciprofloxacin. Continued lactulose for slight asterixis. Given 4L IVF
   and albumin 50g X2 for elevated Cr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-10**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 71 (58 - 73) bpm
   BP: 84/53(61) {74/38(47) - 101/79(84)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,535 mL
                                                                  2,852 mL
   PO:
           540 mL
   TF:
   IVF:
                                                                  1,335 mL
                                                                  2,112 mL
   Blood products:
                                                                    200 mL
                                                                    200 mL
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,535 mL
                                                                  2,452 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: L base)
   Abdominal: Soft, Bowel sounds present, Tender: RLQ
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   19 K/uL
   94 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.7 mEq/L
   100 mg/dL
   104 mEq/L
   132 mEq/L
   25.7 %
   1.6 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
   WBC
   1.6
   Hct
   25.7
   Plt
   19
   Cr
   3.0
   Glucose
   94
   Other labs: PT / PTT / INR:21.0/50.0/2.0, Alk Phos / T Bili:/2.3,
   Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:2.6
   mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ASCITES
   55 y/o m with Cirrhosis, s/p therapeutic paracentesis, found to
   hypotensive w SBP 60s in clinic, some lightheadedness, sent to ED,
   probable pneumonia (likely CAP), no SBP, partial response to IVF,
   pancytopenic.
   1. Hypotension: unclear cause, appeared prerenal
   -Getting IVF and albumin
   -f/u ascites cx, sputum cx
   -Try to place Foley
   2. ARF:
   -urine lytes, renal u/s pending
   3. Cirrhosis:
   -f/u liver recs
   -albumin, encourage pos
   -cont. rifaximin/lactulose
   4. L pleural effusion: does not appear to have ever been tapped
   -suspicious for PNA
   -levofloxacin, f/u sputum cx
   - will do diagnostic +/- therapeutic tap after FFP/platelets
   5. Leukopenia: Unclear cause
   -HIV neg
   -review w/u
   6. DM: cont. NPH, SSI
   7. FEN: reg diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2147-2-9**] 04:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Stable to transfer to floor
   Total time spent: 39 minutes
   ------ Protected Section ------
   Correction
 patient is critically ill and has remained in ICU due to
   his labile blood pressure/hypotension and concern for progressive
   sepsis. Will proceed with thoracentesis and if continues to be stable,
   will transfer to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2147-2-10**] 16:56 ------

2147-02-11 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension
   24 Hour Events:
   - Persistent hypotension with SBP's as low as 68 while sleeping
   - Received 1 unit platelets and 2 units FFP prior to thoracentesis
   - Underwent successful thoracentesis with 1 liter serosanguinous
   transudative fluid removed
   - Received albumin 100 g IV as per Liver recs
   - No UOP since [**2-9**] AM.  Bladder scan revealed urinary retention.
   Foley placement attempted, but unsuccessful.  Urology called.
   - Renal ultrasound without evidence of hydronephrosis or
   post-obstructive pathology
   - Nadolol discontinued
   - 1 L NS + albumin 50 g given given low UOP
   - Blood cx x 2 sent given increasing WBC
   - Random cortisol 8.5; [**Last Name (un) 45**] stim & TTE pending
   - Hct drop from 26 -> 20 this AM; given 2 units PRBC's.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-2-10**] 12:52 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-11**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 77 (65 - 80) bpm
   BP: 96/53(64) {67/32(42) - 121/73(83)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,848 mL
                                                                  1,778 mL
   PO:
                                                                    540 mL
           TF:
   IVF:
                                                                  2,843 mL
                                                                  1,578 mL
   Blood products:
                                                                  1,465 mL
                                                                    200 mL
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,448 mL
                                                                  1,778 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: NAD
   HEENT: nonicteric sclera, MMM
   PULM: decreased bs on Left, o/w ctab
   CV: hrrr, no m/r/g
   Abd: distended, mildly tense, mild ttp RUQ.
   Extr: trace LE edema.  Chronic venous stasis changes.  Right LE wound.
   Neuro: + asterixis, aox3
   Labs / Radiology
   20 K/uL
   6.8 g/dL
   96 mg/dL
   3.2 mg/dL
   21 mEq/L
   5.1 mEq/L
   98 mg/dL
   103 mEq/L
   134 mEq/L
   20.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
                             [**2147-2-11**]  05:36 AM
   WBC
   1.6
   3.7
   Hct
   25.7
   20.3
   Plt
   19
   20
   Cr
   3.0
   3.2
   Glucose
   94
   96
   Other labs: PT / PTT / INR:23.4/52.1/2.3, ALT / AST:37/51, Alk Phos / T
   Bili:165/2.9, Differential-Neuts:87.5 %, Lymph:5.7 %, Mono:5.5 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:108 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   A/P: 55 yo with EtOH cirrhosis with hypotension, decreased UOP,
   dehydration, and ARF.
   # hypotension: Continues to have problems with hypotension despite
   fluid resuscitation, albumin making infection the primary concern.
   Paracentesis showed only 56 WBCs, culture NTD.  Pleural fluid NTD,
   transudative.  Main infectious concern is pulmonary, on levofloxacin
   since yesterday.  Has history of resistant  Ecoli in peritoneal fluid.
   Also has possible RLE cellulitis.  UOP has been low.
   - f/u cultures, check Urine culture.
   - expand antibiotics to [**Last Name (un) 430**] (pulm source, hx of resistant ecoli), levo
   for atypicals, vanc for GPs and cellulitis
   - monitor UOP (foley now in place)
   - ECHO for cardiac etiology
   - central line for volume assessment
   - fluid with albumen
   - CMV VL
   # elevated creatinine: worsening creatinine despite IVF and albumin.
   Concern remains for hepatorenal syndrome though other etiologies of
   renal failure should be evaluated.  Renal u/s wnl.  Also may have
   obstructive component given residuals, unable to check urine lytes and
   culture until now.  ATN also on differential.
   - place foley
   - urine lytes, culture
   - albumin 50g qday
   -  midodrine 7.5 tid and octreotide 100mg sc q 8 per liver recs
   # Pleural effusion: s/p thoracentesis on [**2-11**], transudative.
   - f/u cultures
   # pancytopenia: chronic, thought [**1-16**] hepatic dysfunction, though
   unclear workup in past.  Anemia and thrombocytopenia often seen in
   liver disease, leucopenia occurs but less frequent.  Roughly at
   baseline, though WBC increased today.  Anemia worse today, no obvious
   signs of bleed, getting pRBCs currently.
   - trend
   - transfuse prn
   - DIC, hemolysis labs
   - tx for plt < 10, bleeding
   - tx for HCT < 21
   # DM2:
   - cont home NPH
   - ISS
   # liver: LFTs at recent baseline as are bili and coags. subjective mild
   hepatic encephalopathy.  On transplant list.  Worsening asterixis
   today.
   - increase lactulose goal [**4-19**] stools per day
   - liver recs
   - hepatorenal and hypotension workup/treatment as above
   # hyponatremia: from underlying liver disease
   - follow
   # FEN: reg diet, low sodium.  replete lytes prn.
   # PPx: pneumoboots given low plt, PPI
   # Code: full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-2-10**] 05:07 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2147-02-11 08:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    55 y/o m with Cirrhosis, s/p therapeutic paracentesis, found to
   hypotensive w SBP 60s in clinic, some lightheadedness, sent to ED, no
   evidence of infection, responded to IVF. Paracentesis neg for SBP. L
   [**Female First Name (un) **] done [**2-10**] showing transudate.
   24 Hour Events:
   Persistent hypotension overnight. Had a L thoracentesis c/w transudate.
   Stopped urinatining, unable to place foley. Urology coming to place
   Foley. Renal U/S showed no obx. Nadalol held. Given 100g of albumin.
   WBC rose today. [**Last Name (un) **] stim pending. Hct dropped from 26 to 20, giving 2U
   PRBCS.
 ULTRASOUND - At [**2147-2-10**] 04:00 PM
 THORACENTESIS - At [**2147-2-10**] 06:06 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-2-10**] 12:52 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-11**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 77 (65 - 80) bpm
   BP: 96/53(64) {67/32(42) - 121/73(83)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,848 mL
                                                                  1,784 mL
   PO:
                                                                    540 mL
           TF:
   IVF:
                                                                  2,843 mL
                                                                  1,584 mL
   Blood products:
                                                                  1,465 mL
                                                                    200 mL
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,448 mL
                                                                  1,784 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   L base)
   Abdominal: Bowel sounds present, Distended, Tender: slight
   periumbilical TTP, firm
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, venous stasis of bilat legs
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, + asterixis
   Labs / Radiology
   6.8 g/dL
   20 K/uL
   96 mg/dL
   3.2 mg/dL
   21 mEq/L
   5.1 mEq/L
   98 mg/dL
   103 mEq/L
   134 mEq/L
   20.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
                             [**2147-2-11**]  05:36 AM
   WBC
   1.6
   3.7
   Hct
   25.7
   20.3
   Plt
   19
   20
   Cr
   3.0
   3.2
   Glucose
   94
   96
   Other labs: PT / PTT / INR:23.4/52.1/2.3, ALT / AST:37/51, Alk Phos / T
   Bili:165/2.9, Differential-Neuts:87.5 %, Lymph:5.7 %, Mono:5.5 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:108 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 ASCITES
   55/o with EtOH cirrhosis and hypotension, unclear source of likely
   sepsis.
   1. Sepsis: Possible sources include CAP
   -broaden to vanco/levoflox/zosyn, check C. Diff
   -albumin for intravascular volume
   -place CVL for EGDT
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim
   -TTE today
   2. ARF: Concerning for ATN
   -place foley with urology
   -urine lytes
   -albumin
   3. pleural eff: transudative
   -f/u cx
   4. pancytopenia: Worsening anemia, persistent leukopenia and
   thrombocytopenia
   -check CMV VL
   -given 2U PRBCs, defend a hct of 25
   -DIC/hemolysis labs
   5. Cirrhosis: Increasing encephalopathy
   -cont. rifaximin
   -increase lactulose
   6. DM: cont. SSI
   7. FEN: reg diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2147-2-10**] 05:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-02-12 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension
   24 Hour Events:
   - Broadened coverage with vanc, [**Last Name (un) 430**], levo
   - Lactulose increased
   - Liver recs treat for HRS, albumin/octreotide/midodrine
   - [**Last Name (un) 45**] stim 11.7 -> 19.7
   - he received 2 u PRBC in the morning, HCT changed from 21 -> 23.7, he
   got 2 more u PRBC
   - TTE showed, LVEF 55%, moderately dilated LA and markedly dilated RA
   - patient received 2 bags of plt and 2 units of FFP prior to Right IJ
   placement, given oozing aournd the line, he received 2 more units of
   FFP
   - his CVP post RIJ placment was 33
   - hard to intepret fibronogen and haptoglobin levels in a cirrhotic
   patient
   - ordered for AM vanc level
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-2-10**] 12:52 PM
   Vancomycin - [**2147-2-11**] 04:00 PM
   Meropenem - [**2147-2-11**] 08:12 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-2-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-12**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35
C (95
   HR: 69 (67 - 84) bpm
   BP: 101/46(60) {68/17(31) - 114/73(105)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 25 (13 - 35)mmHg
   Total In:
                                                                  5,489 mL
                                                                    438 mL
   PO:
                                                                    400 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,005 mL
   Blood products:
                                                                  3,084 mL
                                                                    388 mL
   Total out:
                                                                    740 mL
                                                                     90 mL
   Urine:
                                                                    140 mL
                                                                     90 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  4,749 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: ill-appearing
   HEENT: mmm, ncat, RIJ with dressing intact
   Pulm: decrease breathsounds on left, rhonchi throughout
   Abd: distended, moderately tense
   Extr: 1+ LE edema bilaterally, dressing over RLE wound
   Neuron: + asterixis, aox3
   Labs / Radiology
   24 K/uL
   9.5 g/dL
   122 mg/dL
   3.8 mg/dL
   21 mEq/L
   5.1 mEq/L
   98 mg/dL
   102 mEq/L
   133 mEq/L
   28.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
                             [**2147-2-11**]  05:36 AM
                             [**2147-2-11**]  08:03 AM
                             [**2147-2-11**]  06:27 PM
                             [**2147-2-12**]  05:17 AM
   WBC
   1.6
   3.7
   3.5
   6.0
   Hct
   25.7
   20.3
   21.0
   23.7
   28.4
   Plt
   19
   20
   23
   26
   24
   Cr
   3.0
   3.2
   3.8
   Glucose
   94
   96
   122
   Other labs: PT / PTT / INR:21.1/48.4/2.0, ALT / AST:33/32, Alk Phos / T
   Bili:165/5.1, Differential-Neuts:87.5 %, Lymph:5.7 %, Mono:5.5 %,
   Eos:0.9 %, Fibrinogen:108 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:4.2
   g/dL, LDH:140 IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   A/P: 55 yo with EtOH cirrhosis with hypotension, decreased UOP,
   dehydration, and ARF.
   .
   GNR Pneumonia: Growing GNRs in sputum culture. On vanc/levo/[**Last Name (un) 430**] for
   broad coverage including atypical coverage and the [**Last Name (un) 430**] for history of
   resistant  Ecoli in peritoneal fluid.  Also has possible RLE
   cellulitis.  UOP continues to be low, though complicated by ARF.
   - f/u cultures
   - cont broad spectrum antibiotics to [**Last Name (un) 430**] (pulm source, hx of resistant
   ecoli), levo for atypicals, vanc for GPs and cellulitis
   - CMV VL pending
   - monitor MAP and CVP as per sepsis protocol
   # hypotension: he has received significant  fluid resuscitation,
   albumin, and blood products, BP finally better over last 12-24 hrs.
   Infection continues to be the primary concern as above.  Paracentesis
   showed only 56 WBCs, culture NTD.  Pleural fluid NTD, transudative.
   ECHO with dilated atria, but normal LV systolic fxn with suboptimal
   windows.  CVP above goal.
   - monitor UOP (foley now in place)
   - central line in place for volume assessment
   - fluid with albumin, blood products prn for volume expansion
   # elevated creatinine: worsening creatinine despite IVF and albumin.
   Concern remains for hepatorenal syndrome though other etiologies of
   renal failure should be evaluated.  Renal u/s wnl.  Also may have
   obstructive component given residuals, unable to check urine lytes and
   culture until now.  ATN also on differential.  Urine sodium very low
   consistent with prerenal or hepatorenal.  Also has elevated bladder
   pressure of 29 on [**2147-2-12**].
   - foley in place (appreciate urology)
   - urine lytes, culture
   - albumin 25g qday per liver recs
   - midodrine 7.5 tid and octreotide 100mg sc q 8 per liver recs
   - monitor bladder pressure, if consistently elevated, will need
   paracentesis
   # Pleural effusion: s/p thoracentesis on [**2-11**], transudative.
   - f/u cultures
   # pancytopenia: chronic, thought [**1-16**] hepatic dysfunction, though
   unclear workup in past.  Anemia and thrombocytopenia often seen in
   liver disease, leucopenia occurs but less frequent.  Roughly at
   baseline, though WBC increased.  HCT did not bump appropriately to Bcx
   times 4, intermittently guaiac positive with known gastropathy.  No
   apparent brisk GI bleed.  Plts remain in the 20s despite transfusion,
   likely sequestering in spleen. DIC labs not helpful in a cirrhotic.
   - trend TID HCT, platelets
   - transfuse prn
   - tx for plt < 10, bleeding
   - tx for HCT < 21
   # DM2:
   - cont home NPH
   - ISS
   # liver: LFTs at recent baseline as are bili and coags. subjective mild
   hepatic encephalopathy.  On transplant list.  Worsening asterixis
   today.
   - lactulose goal [**4-19**] stools per day
   - liver recs
   - hepatorenal and hypotension workup/treatment as above
   - consider para later today if bladder pressure remains high
   # hyponatremia: from underlying liver disease
   - follow
   # FEN: reg diet, low sodium.  replete lytes prn.
   # PPx: pneumoboots given low plt, PPI
   # Code: full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-2-10**] 05:07 PM
   22 Gauge - [**2147-2-11**] 12:45 PM
   Multi Lumen - [**2147-2-11**] 05:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-02-12 09:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    55 y/o m with Cirrhosis, s/p therapeutic paracentesis, found to
   hypotensive w SBP 60s in clinic, some lightheadedness, sent to ED, no
   clear source of infection, responded to IVF. Paracentesis neg for SBP.
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] done [**2-10**] showing a transudate. Now with rising Cr to 3.0 poor
   [**Last Name (LF) **], [**First Name3 (LF) **] placed CVL [**2-11**] given concern for sepsis. CVP 22-25. [**Month/Year (2) **]
   slightly improved. Broadened abx to vanco/[**Last Name (un) 430**] for possible HAP.
   24 Hour Events:
   Abx broadened to vanco/[**Last Name (un) 430**]/levo, started on octreo/midodrine/albumin
   for possible hepatorenal. TTE normal sys function. RIJ was placed for
   concern for sepsis. CVP was 26.
 MULTI LUMEN - START [**2147-2-11**] 05:30 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2147-2-10**] 12:52 PM
   Vancomycin - [**2147-2-11**] 04:00 PM
   Meropenem - [**2147-2-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-2-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-12**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.2
   HR: 72 (66 - 84) bpm
   BP: 108/60(71) {68/17(31) - 114/73(105)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 20 (13 - 35)mmHg
   Total In:
                                                                  5,489 mL
                                                                    618 mL
   PO:
                                                                    400 mL
                                                                    130 mL
   TF:
   IVF:
                                                                  2,005 mL
                                                                    100 mL
   Blood products:
                                                                  3,084 mL
                                                                    388 mL
   Total out:
                                                                    740 mL
                                                                     90 mL
   Urine:
                                                                    140 mL
                                                                     90 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  4,749 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : L
   base), (Breath Sounds: Bronchial: bilat bases)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   24 K/uL
   122 mg/dL
   3.8 mg/dL
   21 mEq/L
   5.1 mEq/L
   98 mg/dL
   102 mEq/L
   133 mEq/L
   28.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
                             [**2147-2-11**]  05:36 AM
                             [**2147-2-11**]  08:03 AM
                             [**2147-2-11**]  06:27 PM
                             [**2147-2-12**]  05:17 AM
   WBC
   1.6
   3.7
   3.5
   6.0
   Hct
   25.7
   20.3
   21.0
   23.7
   28.4
   Plt
   19
   20
   23
   26
   24
   Cr
   3.0
   3.2
   3.8
   Glucose
   94
   96
   122
   Other labs: PT / PTT / INR:21.1/48.4/2.0, ALT / AST:33/32, Alk Phos / T
   Bili:165/5.1, Differential-Neuts:87.5 %, Lymph:5.7 %, Mono:5.5 %,
   Eos:0.9 %, Fibrinogen:108 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:4.2
   g/dL, LDH:140 IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 ASCITES
   55 y/o m with Cirrhosis, s/p therapeutic paracentesis, found to
   hypotensive w SBP 60s in clinic, some lightheadedness, sent to ED, no
   clear source of infection, responded to IVF. Paracentesis neg for SBP.
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] done [**2-10**] showing a transudate. Now with rising Cr to 3.0 poor
   [**Last Name (LF) **], [**First Name3 (LF) **] placed CVL [**2-11**] given concern for sepsis. CVP 22-25. [**Month/Year (2) **]
   slightly improved. Broadened abx to vanco/[**Last Name (un) 430**] for possible HAP.
   1. Hypotension, suspected sepsis, BP improved, source likely PNA
   -vanco/[**Last Name (un) 430**]/levoflox
   -f/u sputum cx, has GNR in sputum GS
   -pleural fluid and ascites neg
   -check a lactate, CV sat
   2. Resp: Suspect HAP vs CAP
   -cont. abx
   -keep NPO given report of dysphagia
   -swallow eval
   3. Cirrhosis:
   -cont hepato renal tx
   -holding nadalol
   -bili rising
   -cont. rifaximin and lactulose
   4. ARF: Prerenal vs hepatorenal
   -cont. midodrine/albumin/octreotide
   -consult renal, may need CVVH if this continues
   -recheck lytes
   5. pancytopenia: Suspect [**1-16**] ESLD
   -check CMV VL
   -trend plt and hct
   -transfuse for <10 plt
   -keep hct >21%
   6. DM2: BS controlled
   -SSI
   7. FEN: NPO for now pending swallow eval
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2147-2-10**] 05:07 PM
   22 Gauge - [**2147-2-11**] 12:45 PM
   Multi Lumen - [**2147-2-11**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2147-02-13 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension
   24 Hour Events:
   - bladder pressure 29, 20.
   - nephrology consulted - likely HRS, needs dialysis line in AM by renal
   - NPO, S/S for ? aspiration
   - needs low K diet when taking PO
   - increasing abd pressure - improved with BMs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-2-11**] 04:00 PM
   Meropenem - [**2147-2-12**] 08:00 AM
   Levofloxacin - [**2147-2-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-2-12**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 85 (63 - 92) bpm
   BP: 106/60(71) {87/46(55) - 124/72(84)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 26 (18 - 29)mmHg
   Bladder pressure: 20 (20 - 28) mmHg
   Mixed Venous O2% Sat: 95 - 95
   Total In:
                                                                    888 mL
                                                                    130 mL
   PO:
                                                                    300 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
                                                                    388 mL
                                                                    100 mL
   Total out:
                                                                    210 mL
                                                                     90 mL
   Urine:
                                                                    210 mL
                                                                     60 mL
   NG:
   Stool:
                                                                     30 mL
   Drains:
   Balance:
                                                                    678 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   20 K/uL
   9.3 g/dL
   90 mg/dL
   4.3 mg/dL
   20 mEq/L
   4.9 mEq/L
   107 mg/dL
   103 mEq/L
   134 mEq/L
   27.9 %
   4.2 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
                             [**2147-2-11**]  05:36 AM
                             [**2147-2-11**]  08:03 AM
                             [**2147-2-11**]  06:27 PM
                             [**2147-2-12**]  05:17 AM
                             [**2147-2-12**]  03:15 PM
                             [**2147-2-12**]  09:51 PM
                             [**2147-2-13**]  04:52 AM
   WBC
   1.6
   3.7
   3.5
   6.0
   4.9
   4.4
   4.2
   Hct
   25.7
   20.3
   21.0
   23.7
   28.4
   29.1
   27.1
   27.9
   Plt
   19
   20
   23
   26
   24
   21
   23
   20
   Cr
   3.0
   3.2
   3.8
   4.3
   Glucose
   94
   96
   122
   90
   Other labs: PT / PTT / INR:22.9/49.2/2.2, ALT / AST:33/32, Alk Phos / T
   Bili:165/5.1, Differential-Neuts:87.5 %, Lymph:5.7 %, Mono:5.5 %,
   Eos:0.9 %, Fibrinogen:108 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.5
   g/dL, LDH:140 IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   A/P: 55 yo with EtOH cirrhosis with hypotension, decreased UOP,
   dehydration, and ARF.
   .
   GNR Pneumonia: Growing GNRs in sputum culture. On vanc/levo/[**Last Name (un) 430**] for
   broad coverage including atypical coverage and the [**Last Name (un) 430**] for history of
   resistant  Ecoli in peritoneal fluid.  Also has possible RLE
   cellulitis.  UOP continues to be low, though complicated by ARF.
   - f/u cultures
   - cont broad spectrum antibiotics to [**Last Name (un) 430**] (pulm source, hx of resistant
   ecoli), levo for atypicals, vanc for GPs and cellulitis
   - CMV VL pending
   - monitor MAP and CVP as per sepsis protocol
   # hypotension: he has received significant  fluid resuscitation,
   albumin, and blood products, BP finally better over last 12-24 hrs.
   Infection continues to be the primary concern as above.  Paracentesis
   showed only 56 WBCs, culture NTD.  Pleural fluid NTD, transudative.
   ECHO with dilated atria, but normal LV systolic fxn with suboptimal
   windows.  CVP above goal.
   - monitor UOP (foley now in place)
   - central line in place for volume assessment
   - fluid with albumin, blood products prn for volume expansion
   # elevated creatinine: worsening creatinine despite IVF and albumin.
   Concern remains for hepatorenal syndrome though other etiologies of
   renal failure should be evaluated.  Renal u/s wnl.  Also may have
   obstructive component given residuals, unable to check urine lytes and
   culture until now.  ATN also on differential.  Urine sodium very low
   consistent with prerenal or hepatorenal.  Also has elevated bladder
   pressure of 29 on [**2147-2-12**].
   - foley in place (appreciate urology)
   - urine lytes, culture
   - albumin 25g qday per liver recs
   - midodrine 7.5 tid and octreotide 100mg sc q 8 per liver recs
   - monitor bladder pressure, if consistently elevated, will need
   paracentesis
   # Pleural effusion: s/p thoracentesis on [**2-11**], transudative.
   - f/u cultures
   # pancytopenia: chronic, thought [**1-16**] hepatic dysfunction, though
   unclear workup in past.  Anemia and thrombocytopenia often seen in
   liver disease, leucopenia occurs but less frequent.  Roughly at
   baseline, though WBC increased.  HCT did not bump appropriately to Bcx
   times 4, intermittently guaiac positive with known gastropathy.  No
   apparent brisk GI bleed.  Plts remain in the 20s despite transfusion,
   likely sequestering in spleen. DIC labs not helpful in a cirrhotic.
   - trend TID HCT, platelets
   - transfuse prn
   - tx for plt < 10, bleeding
   - tx for HCT < 21
   # DM2:
   - cont home NPH
   - ISS
   # liver: LFTs at recent baseline as are bili and coags. subjective mild
   hepatic encephalopathy.  On transplant list.  Worsening asterixis
   today.
   - lactulose goal [**4-19**] stools per day
   - liver recs
   - hepatorenal and hypotension workup/treatment as above
   - consider para later today if bladder pressure remains high
   # hyponatremia: from underlying liver disease
   - follow
   # FEN: reg diet, low sodium.  replete lytes prn.
   # PPx: pneumoboots given low plt, PPI
   # Code: full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-2-10**] 05:07 PM
   22 Gauge - [**2147-2-11**] 12:45 PM
   Multi Lumen - [**2147-2-11**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2147-02-13 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    55 y/o m with Cirrhosis, s/p therapeutic paracentesis, found to
   hypotensive w SBP 60s in clinic, some lightheadedness, sent to ED, no
   clear source of infection, responded to IVF. Paracentesis neg for SBP.
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] done [**2-10**] showing a transudate. Now with rising Cr to 3.0 poor
   [**Last Name (LF) **], [**First Name3 (LF) **] placed CVL [**2-11**] given concern for sepsis. CVP 22-25. [**Month/Year (2) **]
   slightly improved. Broadened abx to vanco/[**Last Name (un) 430**] for possible HAP.
   24 Hour Events:
   Bladder pressure was 20. [**Last Name (un) **] continued to be 10/h. Renal consulted.
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-2-11**] 04:00 PM
   Meropenem - [**2147-2-12**] 08:00 AM
   Levofloxacin - [**2147-2-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-2-12**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-2-13**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 87 (63 - 92) bpm
   BP: 117/58(70) {87/46(55) - 124/72(84)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 25 (18 - 27)mmHg
   Bladder pressure: 20 (20 - 28) mmHg
   Total In:
                                                                    888 mL
                                                                    230 mL
   PO:
                                                                    300 mL
                                                                    130 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
                                                                    388 mL
                                                                    100 mL
   Total out:
                                                                    210 mL
                                                                    110 mL
   Urine:
                                                                    210 mL
                                                                     80 mL
   NG:
   Stool:
                                                                     30 mL
   Drains:
   Balance:
                                                                    678 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilat bases)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   20 K/uL
   90 mg/dL
   4.3 mg/dL
   20 mEq/L
   4.9 mEq/L
   107 mg/dL
   103 mEq/L
   134 mEq/L
   27.9 %
   4.2 K/uL
        [image002.jpg]
                             [**2147-2-10**]  05:36 AM
                             [**2147-2-11**]  05:36 AM
                             [**2147-2-11**]  08:03 AM
                             [**2147-2-11**]  06:27 PM
                             [**2147-2-12**]  05:17 AM
                             [**2147-2-12**]  03:15 PM
                             [**2147-2-12**]  09:51 PM
                             [**2147-2-13**]  04:52 AM
   WBC
   1.6
   3.7
   3.5
   6.0
   4.9
   4.4
   4.2
   Hct
   25.7
   20.3
   21.0
   23.7
   28.4
   29.1
   27.1
   27.9
   Plt
   19
   20
   23
   26
   24
   21
   23
   20
   Cr
   3.0
   3.2
   3.8
   4.3
   Glucose
   94
   96
   122
   90
   Other labs: PT / PTT / INR:22.9/49.2/2.2, ALT / AST:33/32, Alk Phos / T
   Bili:165/5.1, Differential-Neuts:87.5 %, Lymph:5.7 %, Mono:5.5 %,
   Eos:0.9 %, Fibrinogen:108 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:4.1
   g/dL, LDH:140 IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 ASCITES
   55 y/o m with cirrhosis here with PNA and ARF.
   1. PNA: ESBL E. Coli
   -change to cipro for ppx
   -continue vanco for cellulitis
   -cont. meropenem for 14 days
   -vanc level
   2. Hypotension: ? sepsis, now improved, CVP 20, CV sat 94%
   -keep CVP >12
   3. ARF: Possible hepatorenal vs. ineffective circ volume
   -HD line today, will need products
   -2 FFP, plts 1 bag while during procedure
   4. Cirrhosis: Plan para today for elev bladder pressure
   -1L to 1.5L
   5. DM: NPH SSI
   6. FEN: reports dysphagia, NPO until swallow eval
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2147-2-10**] 05:07 PM
   22 Gauge - [**2147-2-11**] 12:45 PM
   Multi Lumen - [**2147-2-11**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with her assessment and plan with the following
   modifications/emphasis:
   50 year old male with cirrhosis SBP and now pneumonia (E. Coli ESBL)
   who now having acute renal failure believed to be secondary to HRS.
   Subjectively, patient complains of some abdominal tightness.
   T 36  P 87  BP 136/83   RR 19  SaO2 93%
   On exam, patient is alert, oriented and in no acute distress
   Chest: CTA
   Heart: S1 S2 reg
   Abd: Soft, distended, nontender
   A:
   1)       Acute Renal Failure likely HRS
   2)       Pneumonia (e coli esbl)
   3)       SBP
   4)       Cirrhosis with ascites
   Plan:
   1)       HD today
   2)       Antibiotics for pneumonia/sbp
   3)       Paracentesis for symptomatic relief
   4)       If tolerates HD, may be able to go to the [**Hospital1 **]
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2147-2-14**] 12:49 AM ------